US04806538
To a solution of 5-chloro-1-ethylindole (6.17 g) and methyl (2R,3R)-N-benzyloxycarbonyl-3-methyl-2-aziridinecarboxylate (9.87 g) in dry methylene chloride (100 ml) which was cooled on an ice bath, was added boron trifluoride etherate (4 ml). The mixture was stirred for five minutes and washed with saturated sodium bicarbonate solution, treated with active charcoal, and dried over magnesium sulfate. After removal of the solvent, the crude residue was chromatographed on silica gel (100 g) (toluene as eluent) to give (αR,βR)-N-benzyloxycarbonyl-5-chloro-1-ethyl-β-methyltryptophan methyl ester (4.17 g) as an oil.

reactant | 5-chloro-1-ethylindole | 6.17 g | ClC=1C=C2C=CN(C2=CC1)CC | C10H10ClN
reactant | methyl (2R,3R)-N-benzyloxycarbonyl-3-methyl-2-aziridinecarboxylate | 9.87 g | C(C1=CC=CC=C1)OC(=O)N1[C@H]([C@H]1C)C(=O)OC | C13H15NO4
reactant | boron trifluoride etherate | 4 ml | B(F)(F)F.CCOCC
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | (αR,βR)-N-benzyloxycarbonyl-5-chloro-1-ethyl-β-methyltryptophan methyl ester | 4.17 g | COC([C@H](NC(=O)OCC1=CC=CC=C1)[C@@H](C1=CN(C2=CC=C(C=C12)Cl)CC)C)=O | C23H25ClN2O4
